Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Near syncope 
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
Per ED/prior records: Patient presented to the ED for evaluation
of near syncopal events and palpitations. Patient reports that
she has a history of SVT status post ablation many many years
ago. Over the past month she has had increased episodes of chest
palpitations associated with near syncopal events. She just does
not feel well. She denies any chest pain or shortness of breath
but feels like her heart is racing and that she has flutters.
This occurs both at rest and with exertion. For example 
yesterday
she was having a pedicure and nearly syncopized. There has not
been an actual events of syncope. No head strike or loss of
consciousness. She denies any nausea vomiting or diarrhea. No
fevers or chills. No leg swelling or recent travel

In the ED, initial VS were T 96.7 88 165/86 ___ RA .  

Exam notable for a/o x 3, speaking in full sentences. denies any
pain, but c/o "heaviness in chest." +dizziness/weakness. 
Endorses
numbness/tingling in hands.

Labs showed Trop < 0.01 x2, BUN/Cr ___, Na/K 144/4.4

Imaging showed  
CXR PA/Lat: No acute cardiopulmonary process.

Received PO/NG Simvastatin 40 mg, PO Metoprolol Succinate XL 25
mg 

Cardiology were consulted. Reviewed stress, ST changes not
sufficient to qualify for positive result. Would work up
pre-syncope. 

On arrival to the floor, patient reports a general, global
weakness that has been intermittent over the past two weeks. She
says if she were at home, she would just be staying in bed 
rather
than doing any of her ADLs. She denies any HA, focal weakness,
CP, palpitations, cough, fevers, chills, change in vision. 

 
Past Medical History:
Multiple Sclerosis ___
Diverticulitis ___
Autonomic dysfunction
Paroxysmal Tachycardia
Hypercholesterolemia
Anxiety
Depression
Hypertension
Nephrolithiasis

PSHX:
Portacath 
Bladder suspension ___
Vaginal Hysterectomy (ovaries intact)
 
Social History:
___
Family History:
Mother died at age ___ unexpectedly after bowel
surgery.  She was diagnosed with lung cancer, which was
apparently surgically cured.  She was a smoker.  Father, alive 
at
age ___, is golfing and driving.  He has hypertension.  Brother 
is
age ___ and sister age ___, both without known health problems.
 
Physical Exam:
Admission Physical Exam 
========================
VS: T 97.8 137/83 85 ___ RA 
GENERAL: NAD, A/Ox3, lying comfortably in bed, endorsing fatigue
but actively conversing
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs, no elevated JVD
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis or clubbing, 1+ edema to mid-shin 
bilaterally
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

Discharge Physical Exam 
======================= 
VS: 97.6, ___, 18, high 90's RA, orthostatics: 
144/78, 95 lying, 143/86, 93 sitting, 146/88, 101 standing  
GENERAL: Very pleasant middle aged female sitting in bed, NAD   
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM, 
good dentition  
NECK: nontender supple neck, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, sensation intact bilaterally to light 
touch, moving all extremities equally.  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
Admission Labs 
==============
___ 12:17PM BLOOD WBC-6.9 RBC-5.44* Hgb-14.0 Hct-44.5 
MCV-82 MCH-25.7* MCHC-31.5* RDW-13.6 RDWSD-39.7 Plt ___
___ 12:17PM BLOOD Neuts-73.4* ___ Monos-5.7 Eos-1.0 
Baso-0.4 Im ___ AbsNeut-5.04# AbsLymp-1.31 AbsMono-0.39 
AbsEos-0.07 AbsBaso-0.03
___ 12:17PM BLOOD Plt ___
___ 12:17PM BLOOD Glucose-91 UreaN-14 Creat-0.9 Na-144 
K-4.4 Cl-103 HCO3-26 AnGap-15
___ 12:17PM BLOOD cTropnT-<0.01

Discharge Labs 
===============
___ 07:26AM BLOOD WBC-7.1 RBC-5.25* Hgb-13.8 Hct-43.5 
MCV-83 MCH-26.3 MCHC-31.7* RDW-13.7 RDWSD-41.1 Plt ___
___ 07:26AM BLOOD Plt ___
___ 07:26AM BLOOD Glucose-95 UreaN-18 Creat-0.9 Na-144 
K-4.4 Cl-102 HCO3-22 AnGap-20*
___ 06:13PM BLOOD cTropnT-<0.01
___ 07:26AM BLOOD TSH-1.3

Micro
=====
-Lyme IgM: pending 

Imaging 
========
___ TTE: The left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is normal (LVEF = 70%). There is no left 
ventricular outflow obstruction at rest or with Valsalva. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The number of aortic valve leaflets cannot be 
determined. There is no aortic valve stenosis. Mild (1+) aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The pulmonary artery 
systolic pressure could not be determined. There is no 
pericardial effusion. There is an anterior space which most 
likely represents a prominent fat pad. 

 Compared with the prior study (images reviewed) of ___, 
there is no major change.  

___ EET: Non-specific EKG changes in the presence of 
progressive 
lightheadedness and no anginal type symptoms. Poor functional 
capacity. 
Resting hypertension. 

 
Brief Hospital Course:
Mrs. ___ is a ___ w/ PMH significant for MS, SVT s/p
ablation, postural orthostatic tachycardic syndrome who presents
for evaluation of presyncope. 

#Presyncope: She reported 2 weeks of progressive fatigue and 
episodes of lightheadedness/pre-syncope. These episodes occurred 
at rest and with exertion. She denies any triggers for episodes. 
These episodes were thought possibly to be due to SVT/cardiac 
source. She had an extensive work up in ED for cardiac causes. 
EKG showed NSR with no ischemic changes. She had TTE that showed 
EF 70%, and mild aortic regurgitation and no significant change 
from ___ TTE. ETT showed Non-specific EKG changes in the 
presence of progressive lightheadedness and no anginal type 
symptoms, poor functional capacity, and resting hypertension. 
Her symptoms were felt to be more generalized, global weakness 
than pre-syncope. Patient did report possible fever on ___ 
but no URI symptoms. She also doesn't endorse any new focal 
neurologic findings that lasted for >24hrs. Suspicion for MS 
exacerbation was low. She did report looking after dogs that 
have had ticks. She didn't remember any tick bites or rashes but 
lyme was sent and was pending at time of discharge. TSH was sent 
and was normal. 

#SVT: Status post ablation of right posterior septal accessory 
pathway ___. She had no evidence of re-emergence of 
STV while hospitalized. 

#Multiple sclerosis: Patient did report generalized fatigue and 
weakness over past two weeks. She denied any focal weakness or 
paresthesias, changes in vision, new incontinence, dysarthria or 
dizziness that lasted >24hrs. It was thought that these 
pre-sycopal episodes were less likely to be an MS flare. She was 
continued on home vitamin D and plegridy. Patient counseled to 
call her Neurologist if she develops any new neurologic 
symptoms. 

#Postural orthostatic tachycardia syndrome: Evaluated by 
___ years ago. Previously treated with sodium 
chloride tablets, Florinef, and metoprolol. Orthostatics were 
done and were negative. She was continued on her home metoprolol 
during admission with no issues. 

#Hypercholesterolemia: Continued on home simvastatin 40 mg daily 
without issue 

#Asthma: Continue home budesonide and albuterol without issue

Transitional Issues 
====================
[] Follow up lyme 
[] Follow up with PCP for further workup of fatigue and 
lightheadedness 
[] Follow up with Neurology if develops new neurologic symptoms 
[] Follow up with your colonoscopy appointment for cancer 
screening 
#Full code 
#Contact ___ 
___: husband 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO BID 
2. ALPRAZolam 0.25 mg PO BID:PRN Anxiety related to flying 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Estrogens Conjugated 1 gm VG DAILY 
5. Simvastatin 40 mg PO QPM 
6. Peginterferon Alfa-2a 125 mcg SC Q14D 
7. Multivitamins 1 TAB PO DAILY 
8. Loratadine 10 mg PO Frequency is Unknown 
9. Vitamin D 5000 UNIT PO DAILY 
10. albuterol sulfate 90 mcg/actuation inhalation 2 puffs orally 
q4-6h PRN  

 
Discharge Medications:
1.  Estrogens Conjugated 1 gm VG 2X/WEEK (MO,TH)  
2.  Loratadine 10 mg PO DAILY  
3.  albuterol sulfate 90 mcg/actuation inhalation 2 puffs orally 
q4-6h PRN   
4.  ALPRAZolam 0.25 mg PO BID:PRN Anxiety related to flying  
5.  ClonazePAM 0.5 mg PO BID  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  
8.  Peginterferon Alfa-2a 125 mcg SC Q14D  
9.  Simvastatin 40 mg PO QPM  
10.  Vitamin D 5000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis 
Presyncope 

Secondary Diagnosis 
Fatigue 
MS 
SVT 
___ 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

It was a pleasure to take care of you at ___. 

WHY WAS I HERE?
You were admitted to the hospital for fatigue and 
lightheadedness

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL
Tests were done to assess cardiac causes of lightheadedness and 
were negative. 

WHAT SHOULD I DO WHEN I GET HOME?
You should follow up with your pcp to ___ fatigue as an 
outpatient. 

We wish you the best!

Your ___ Care Team

 
Followup Instructions:
___